*********************************************************
*** NGSPICE file created by KLayout-PEX 0.3.12
*** -----------------------------------------------------
***     Extraction Engine: KPEX/2.5D
***     Technology: ihp_sg13g2
***     Date: 2026-09-02 14:02:16
*********************************************************

.SUBCKT pam4drv_pam4_lay sub msbp msbn lsbp vcmb lsbn tmsb0 tmsb1 tlsb0 vcasc outp outn vcc
XQ_1 \$49 msbp \$10 sub npn13G2 Nx=3
XQ_2 \$50 msbn \$11 sub npn13G2 Nx=3
XQ_3 \$51 msbp \$12 sub npn13G2 Nx=3
XQ_4 \$52 msbn \$13 sub npn13G2 Nx=3
XQ_5 \$53 lsbp \$14 sub npn13G2 Nx=3
XQ_6 \$54 lsbn \$15 sub npn13G2 Nx=3
XQ_7 outp vcasc \$49 sub npn13G2 Nx=3
XQ_8 outn vcasc \$50 sub npn13G2 Nx=3
XQ_9 outp vcasc \$51 sub npn13G2 Nx=3
XQ_10 outn vcasc \$52 sub npn13G2 Nx=3
XQ_11 outp vcasc \$53 sub npn13G2 Nx=3
XQ_12 outn vcasc \$54 sub npn13G2 Nx=3
XR_13 vcmb lsbp sub rsil w=0.64u l=3.1u m=1
XR_14 vcmb lsbn sub rsil w=0.64u l=3.1u m=1
XR_15 vcmb msbp sub rsil w=0.64u l=3.1u m=1
XR_16 vcmb msbn sub rsil w=0.64u l=3.1u m=1
XR_17 tmsb0 \$10 sub rsil w=5.56u l=1.29u m=1
XR_18 tmsb0 \$11 sub rsil w=5.56u l=1.29u m=1
XR_19 tmsb1 \$12 sub rsil w=5.56u l=1.29u m=1
XR_20 tmsb1 \$13 sub rsil w=5.56u l=1.29u m=1
XR_21 tlsb0 \$14 sub rsil w=5.56u l=1.29u m=1
XR_22 tlsb0 \$15 sub rsil w=5.56u l=1.29u m=1
XR_23 outp vcc sub rsil w=1.52u l=10.02u m=1
XR_24 outn vcc sub rsil w=1.52u l=10.02u m=1
Cext_1 \$10 \$11 495.76a
Cext_2 \$10 \$49 1.34032f
Cext_3 \$10 \$50 24.134a
Cext_4 \$10 msbn 3.22087a
Cext_5 \$10 msbp 734.969a
Cext_6 \$10 sub 11.2617a
Cext_7 \$10 tmsb0 253.465a
Cext_8 \$10 vcasc 13.3269a
Cext_9 \$10 sub 3.12182f
Cext_10 \$11 \$49 0.628703a
Cext_11 \$11 \$50 1.32759f
Cext_12 \$11 msbn 732.097a
Cext_13 \$11 msbp 6.60649a
Cext_14 \$11 sub 4.68592a
Cext_15 \$11 tmsb0 239.813a
Cext_16 \$11 vcasc 5.87054a
Cext_17 \$11 sub 2.84601f
Cext_18 \$12 \$13 495.76a
Cext_19 \$12 \$51 1.34032f
Cext_20 \$12 \$52 24.134a
Cext_21 \$12 msbn 3.22087a
Cext_22 \$12 msbp 741.18a
Cext_23 \$12 sub 4.68592a
Cext_24 \$12 tmsb1 253.02a
Cext_25 \$12 vcasc 13.3269a
Cext_26 \$12 sub 3.12076f
Cext_27 \$13 \$51 0.628703a
Cext_28 \$13 \$52 1.32759f
Cext_29 \$13 msbn 732.097a
Cext_30 \$13 msbp 0.679754a
Cext_31 \$13 sub 4.68592a
Cext_32 \$13 tmsb1 239.813a
Cext_33 \$13 vcasc 5.87054a
Cext_34 \$13 sub 2.84601f
Cext_35 \$14 \$15 495.76a
Cext_36 \$14 \$53 1.34032f
Cext_37 \$14 \$54 24.134a
Cext_38 \$14 lsbn 3.22087a
Cext_39 \$14 lsbp 728.381a
Cext_40 \$14 sub 4.68592a
Cext_41 \$14 tlsb0 253.465a
Cext_42 \$14 vcasc 13.3269a
Cext_43 \$14 sub 3.12545f
Cext_44 \$15 \$53 0.628703a
Cext_45 \$15 \$54 1.32759f
Cext_46 \$15 lsbn 732.097a
Cext_47 \$15 lsbp 0.679754a
Cext_48 \$15 sub 8.71644a
Cext_49 \$15 tlsb0 239.813a
Cext_50 \$15 vcasc 5.87054a
Cext_51 \$15 sub 2.84547f
Cext_52 \$49 msbp 50.8262a
Cext_53 \$49 outp 733.343a
Cext_54 \$49 sub 19.9701a
Cext_55 \$49 vcasc 750.479a
Cext_56 \$49 sub 2.25299f
Cext_57 \$50 msbn 50.8262a
Cext_58 \$50 outn 668.615a
Cext_59 \$50 outp 64.565a
Cext_60 \$50 sub 27.2059a
Cext_61 \$50 vcasc 761.314a
Cext_62 \$50 sub 2.24437f
Cext_63 \$51 msbp 50.8262a
Cext_64 \$51 outp 748.424a
Cext_65 \$51 sub 27.2059a
Cext_66 \$51 vcasc 761.314a
Cext_67 \$51 sub 2.24437f
Cext_68 \$52 msbn 50.8262a
Cext_69 \$52 outn 668.615a
Cext_70 \$52 outp 64.565a
Cext_71 \$52 sub 27.2059a
Cext_72 \$52 vcasc 761.314a
Cext_73 \$52 sub 2.24437f
Cext_74 \$53 lsbp 50.8262a
Cext_75 \$53 outp 733.343a
Cext_76 \$53 sub 27.2059a
Cext_77 \$53 vcasc 761.314a
Cext_78 \$53 sub 2.24437f
Cext_79 \$54 lsbn 50.8262a
Cext_80 \$54 outn 668.615a
Cext_81 \$54 sub 15.6156a
Cext_82 \$54 vcasc 743.892a
Cext_83 \$54 sub 2.25999f
Cext_84 lsbn lsbp 437.413a
Cext_85 lsbn msbn 41.8589a
Cext_86 lsbn msbp 77.5257a
Cext_87 lsbn sub 25.2458a
Cext_88 lsbn tlsb0 77.3695a
Cext_89 lsbn vcmb 107.325a
Cext_90 lsbp msbn 453.497a
Cext_91 lsbp msbp 68.4133a
Cext_92 lsbp tlsb0 77.3695a
Cext_93 lsbp vcmb 8.69481a
Cext_94 msbn msbp 517.719a
Cext_95 msbn tmsb0 77.5104a
Cext_96 msbn tmsb1 124.882a
Cext_97 msbn vcmb 8.69481a
Cext_98 msbp sub 20.2247a
Cext_99 msbp tmsb0 270.365a
Cext_100 msbp tmsb1 139.614a
Cext_101 msbp vcmb 8.69481a
Cext_102 outn outp 1.70285f
Cext_103 outn sub 138.643a
Cext_104 outn vcasc 152.2a
Cext_105 outn vcc 1.91415a
Cext_106 outp sub 179.623a
Cext_107 outp vcasc 233.845a
Cext_108 outp vcc 1.91415a
Cext_109 sub tlsb0 9.2577a
Cext_110 sub tmsb0 10.5322a
Cext_111 sub vcasc 372.647a
Cext_112 sub vcc 135.504a
Cext_113 sub vcmb 886.387a
Cext_114 sub lsbn 5.82287f
Cext_115 sub lsbp 4.26206f
Cext_116 sub msbn 5.85951f
Cext_117 sub msbp 5.90487f
Cext_118 sub outn 11.8901f
Cext_119 sub outp 11.0602f
Cext_120 sub sub 45.4296f
Cext_121 sub tlsb0 4.04723f
Cext_122 sub tmsb0 4.04556f
Cext_123 sub tmsb1 4.03452f
Cext_124 sub vcasc 7.01373f
Cext_125 sub vcc 3.85538f
Cext_126 sub vcmb 9.59202f
XCdeg_r0 \$10 \$11 cap_cmim w=3.33u l=3.33u
XCdeg_r1 \$12 \$13 cap_cmim w=3.33u l=3.33u
XCdeg_r2 \$14 \$15 cap_cmim w=3.33u l=3.33u
.ENDS pam4drv_pam4_lay
